US08404649B2
Preparation 9: 4-(5-(3,5-dichloro-4-fluorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)-N-(2-oxoethyl)-1-naphthamide
To a solution of 4-(5-(3,5-dichloro-4-fluorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)-N-(2-hydroxyethyl)-1-naphthamide (Preparation 8, 730 mg, 1.4 mmol) in EtOAc (100 mL) was added Dess-Martin reagent (725 mg, 1.7 mmol). The reaction was stirred at room temperature for 2 hours. TLC 65:35 EtOAc:heptane shows complete conversion to less polar spot. 50 mL NaHCO3 was added to reaction mixture and stirred for 15 minutes. Contents were diluted with water, extracted with EtOAc (2×75 mL), dried (Na2SO4), and concentrated under vacuum to afford the intermediate (713 mg, 98%) as a solid. m/z (Cl) 513 [M+H]+.

reactant | 4-(5-(3,5-dichloro-4-fluorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)-N-(2-hydroxyethyl)-1-naphthamide | 1.4 mmol, 730 mg | ClC=1C=C(C=C(C1F)Cl)C1(CC(=NO1)C1=CC=C(C2=CC=CC=C12)C(=O)NCCO)C(F)(F)F | C23H16Cl2F4N2O3
reactant | Dess-Martin reagent | 1.7 mmol, 725 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | heptane | CCCCCCC | C7H16
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 4-(5-(3,5-dichloro-4-fluorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)-N-(2-oxoethyl)-1-naphthamide | 713 mg, 98% | ClC=1C=C(C=C(C1F)Cl)C1(CC(=NO1)C1=CC=C(C2=CC=CC=C12)C(=O)NCC=O)C(F)(F)F | C23H14Cl2F4N2O3
